US09382271B2
and reacting norbornene methanol (IB) with methyldiphenylsilane in the presence of a suitable solvent and potassium tert-butoxide to obtain (bicyclo[2.2.1]hept-5-en-2-ylmethoxy)(methyl)diphenylsilane (VB) of at least 99.5 percent purity.

reactant | norbornene methanol | C12(C=CC(CC1)C2)CO | C8H12O
reactant | methyldiphenylsilane | C[SiH](C1=CC=CC=C1)C1=CC=CC=C1 | C13H14Si
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
product | (bicyclo[2.2.1]hept-5-en-2-ylmethoxy)(methyl)diphenylsilane | C12C(CC(C=C1)C2)CO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C | C21H24OSi
